US08633173B2
4-{4-[8-(4-Acetylamino-phenylsulfanyl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester was prepared from N-[4-(2-chloro-[1,2,4]triazolo[1,5-a]pyridine-8-ylsulfanyl)-phenyl]acetamide and 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester with 2,2′-bis-dicyclohexylphosphanyl-biphenyl as the ligand in a manner analogous to Example 2d (0.023 g, 10%). MP=226-228° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 10.2 (s, 1H), 9.69 (s, 1H), 8.62 (d, 1H), 7.72 (m, 2H), 7.55 (m, 2H), 7.49 (m, 2H), 7.12 (m, 2H), 6.91 (m, 1H), 4.18 (bs, 2H), 2.78 (bs, 2H), 2.58 (m, 1H), 2.04 (s, 3H), 1.66 (m, 2H), 1.51 (m, 2H), 1.42 (s, 9H). MS=559 (MH)+.

reactant | N-[4-(2-chloro-[1,2,4]triazolo[1,5-a]pyridine-8-ylsulfanyl)-phenyl]acetamide | ClC1=NN2C(C(=CC=C2)SC2=CC=C(C=C2)NC(C)=O)=N1 | C14H11ClN4OS
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 4-{4-[8-(4-Acetylamino-phenylsulfanyl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)SC2=CC=C(C=C2)NC(C)=O)=N1 | C30H34N6O3S
